US05597387
a) Preparation of 3-hydroxyphenylimino-diacetic acid disodium salt
21.8 g of 3-aminophenol are introduced into 50 ml of water and the mixture is heated to 90° C. A solution of 47.7 g of sodium monochloroacetate in 75 ml of water is then added, the pH of the reaction mixture being kept at pH 6.5 to 7 by addition of 28.5 g of sodium bicarbonate. In order to bring the alkylation reaction to completion, the mixture is subsequently stirred at 90° to 95° C. for 4 hours. The resulting solution can be further processed without intermediate isolation of the 3-hydroxyphenyl-imino-diacetic acid obtained.

reactant | 3-aminophenol | 21.8 g | NC=1C=C(C=CC1)O | C6H7NO
reactant | sodium monochloroacetate | 47.7 g | ClCC(=O)[O-].[Na+]
reactant | sodium bicarbonate | 28.5 g | C([O-])(O)=O.[Na+]
reactant | 3-hydroxyphenyl-imino-diacetic acid | OC=1C=C(C=CC1)C(C(=O)O)NCC(=O)O | C10H11NO5
solvent | water | 75 ml | O | H2O
solvent | water | 50 ml | O | H2O
product | 3-hydroxyphenylimino-diacetic acid disodium salt | [Na+].[Na+].OC=1C=C(C=CC1)N(CC(=O)[O-])CC(=O)[O-] | InChI=1S/C10H11NO5.2Na/c12-8-3-1-2-7(4-8)11(5-9(13)14)6-10(15)16;;/h1-4,12H,5-6H2,(H,13,14)(H,15,16);;/q;2*+1/p-2
